US07402595B2
2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-4-ylmethyl ester
The present compound was synthesized by a method similar to that in Example 200 and using 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (200 mg) and 4-pyridinemethanol. A colorless powder (160 mg).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 200 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
reactant | 4-pyridinemethanol | N1=CC=C(C=C1)CO | C6H7NO
product | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid pyridin-4-ylmethyl ester | N1=CC=C(C=C1)COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C29H21BrN2O3
